US08466186B2
(d) N-{4-Chloro-3-[3-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-2,2-dimethyl-propionamide
DIC (130 μL, 0.8 mmol) was added to N-(4-chloro-3-{3-[2-methylamino-5-(4-trifluoromethyl-piperidin-1-yl)-phenyl]-thioureido}-benzyl)-2,2-dimethyl-propionamide (180 mg, 0.3 mmol) in MeCN. The reaction mixture was heated at 60° C.-80° C. for one week (additional DIC (2.5 ml) was added). The mixture was cooled to rt and concentrated. The residue was treated with MeCN, filtered and washed. The filtercake was diluted with dioxane and HCOOH and lyophilized to give the title compound.

reactant | DIC | 0.8 mmol, 130 μL | CC(N=C=NC(C)C)C | C7H14N2
reactant | N-(4-chloro-3-{3-[2-methylamino-5-(4-trifluoromethyl-piperidin-1-yl)-phenyl]-thioureido}-benzyl)-2,2-dimethyl-propionamide | 0.3 mmol, 180 mg | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)NC(=S)NC1=C(C=CC(=C1)N1CCC(CC1)C(F)(F)F)NC | C26H33ClF3N5OS
reactant | DIC | 2.5 ml | CC(N=C=NC(C)C)C | C7H14N2
solvent | MeCN | CC#N | C2H3N
product | N-{4-Chloro-3-[3-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-2,2-dimethyl-propionamide | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)NC1N(C2=C(N1)C=C(C=C2)N2CCC(CC2)C(F)(F)F)C | C26H33ClF3N5O
